US07495007B2
In a manner similar to the method described in example 190b, 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-3-methoxy-benzaldehyde (4.58 g, 11 mmol) was used as the starting material in place of 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-benzaldehyde to react with 1,1,3,3,3-hexamethyldisilazane (2.18 mL, 11 mmol), n-butyllithium (2.5 M, 4.2 mL, 11 mmol), trimethylsilyl chloride (1.33 mL, 10.5 mmol), triethylamine (1.9 mL, 13.6 mmol) and acetyl chloride (0.97 mL, 13.6 mmol) to give crude 1-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-3-methoxy-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-3-methoxy-benzaldehyde | 11 mmol, 4.58 g | C(C)(C)(C)[Si](OCCOC1=C(C=O)C=C(C=C1OC)I)(C)C | C16H25IO4Si
reactant | 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-benzaldehyde | C(C)(C)(C)[Si](OCCOC1=C(C=O)C=C(C=C1)I)(C)C | C15H23IO3Si
reactant | 1,1,3,3,3-hexamethyldisilazane | 11 mmol, 2.18 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | n-butyllithium | 11 mmol, 2.5 M, 4.2 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 10.5 mmol, 1.33 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 13.6 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 13.6 mmol, 0.97 mL | C(C)(=O)Cl | C2H3ClO
product | 3-trimethylsilyoxy-2-aza-1,3-butadiene | C[Si](OC(N=C)=C)(C)C | C6H13NOSi
